US07884109B2
2-(1H-Benzo[d]imidazol-1-yl)-N-(cis-3-methyl-tetrahydro-2H-pyran-4-yl)-5-nitropyrimidin-4-amine.
To a solution of 2-chloro-N-(cis-3-methyl-tetrahydro-2H-pyran-4-yl)-5-nitropyrimidin-4-amine (115 mg) in acetonitrile (5 mL) was added potassium carbonate (300 mg) and benzimidazole (150 mg). The mixture was stirred at 70° C. for 2.5 hours. After diluting with 70 mL EtOAc, the mixture was washed with brine, dried over sodium sulfate, and concentrated in vacuo. Column chromatography (50→100% EtOAc/hexanes) provided 99 mg of the title compound.

reactant | 2-chloro-N-(cis-3-methyl-tetrahydro-2H-pyran-4-yl)-5-nitropyrimidin-4-amine | 115 mg | ClC1=NC=C(C(=N1)N[C@@H]1[C@@H](COCC1)C)[N+](=O)[O-] | C10H13ClN4O3
reactant | potassium carbonate | 300 mg | C([O-])([O-])=O.[K+].[K+]
reactant | benzimidazole | 150 mg | N1=CNC2=C1C=CC=C2 | C7H6N2
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
solvent | EtOAc | 70 mL | CCOC(=O)C | C4H8O2
product | 2-(1H-Benzo[d]imidazol-1-yl)-N-(cis-3-methyl-tetrahydro-2H-pyran-4-yl)-5-nitropyrimidin-4-amine | 99 mg | N1(C=NC2=C1C=CC=C2)C2=NC=C(C(=N2)N[C@@H]2[C@@H](COCC2)C)[N+](=O)[O-] | C17H18N6O3
